US04087533
5.8 gm of N-(1-hydroxy-2,2,3-trichloropropyl)-propionamide were admixed with 20 ml of thionyl chloride, and the mixture was refluxed for 30 minutes. Subsequently, the reaction mixture was evaporated in vacuo. The crude N-(1,2,2,3-tetrachloro-n-propyl)-propionamide thus obtained was dissolved in 30 ml of tetrahydrofuran, and, while stirring, the solution was added to a solution of 1.75 gm of 1,2,4-triazole and 4.2 ml of triethylamine in 30 ml of tetrahydrofuran. After standing for 3 hours at room temperature, the reaction solution was admixed with water, and the tetrahydrofuran was distilled off in vacuo. A quickly solidifying oil was obtained, and the crystallizate was recrystallized from methanol/water. Yield: 4.6 gm; m.p. 167° C.

reactant | N-(1-hydroxy-2,2,3-trichloropropyl)-propionamide | 5.8 gm | OC(C(CCl)(Cl)Cl)NC(CC)=O | C6H10Cl3NO2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(1,2,2,3-tetrachloro-n-propyl)-propionamide | ClC(C(CCl)(Cl)Cl)NC(CC)=O | C6H9Cl4NO
